US04001244
To 10 parts by volume of 2-diethylaminoethylamine is added 3.0 parts of 6,7-dimethoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarbonyl chloride. An exothermic reaction ensues. The mixture is heated over a steam bath for approximately 30 minutes. (Alternatively, the mixture is maintained at room temperature overnight.) The reaction mixture is then poured into water and extracted with ethyl ether. The ether layer is dried over anhydrous calcium sulfate and evaporated to dryness. The solid thus obtained is crystallized from a mixture of ethyl ether and n-hexane to afford N-(2-diethylaminoethyl)-6,7-dimethoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide, melting at about 97°-98°C.

reactant | 2-diethylaminoethylamine | C(C)N(CCN)CC | C6H16N2
reactant | 6,7-dimethoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarbonyl chloride | COC=1C=C2CCN(C(C2=CC1OC)C1=CC=CC=C1)C(=O)Cl | C18H18ClNO3
solvent | water | O | H2O
product | N-(2-diethylaminoethyl)-6,7-dimethoxy-1-phenyl-3,4-dihydro-2(1H)-isoquinolinecarboxamide | C(C)N(CCNC(=O)N1C(C2=CC(=C(C=C2CC1)OC)OC)C1=CC=CC=C1)CC | C24H33N3O3
